* C:\Users\alw\Desktop\spice\Analysis\Draft4.asc
V1 N001 0 SINE(0 5 10)
R1 N002 N001 200
R2 N003 N002 100
C1 N002 0 50
C2 N003 0 100
.tran 0 1 0 0.001
.end

